US07776857B2
A pyrex reaction tube was charged with tris(dibenzylideneacetone)dipalladium (20 mg, 0.021 mmol), 4-(7-methoxy-1,5-naphthyridin-4-ylthio)benzenamine (122 mg, 0.430 mmol), sodium tert-butoxide (99 mg, 1.031 mmol), S-Phos (35 mg, 0.086 mmol), and 3-chloro-4-ethyl-6-p-tolylpyridazine (100 mg, 0.430 mmol). The reaction tube was purged with nitrogen. 1.3 mL of toluene was added, and the tube was sealed. The reaction mixture was heated at 100° C. for 3 h. Upon cooling, the mixture was diluted with 5% iPrOH/EtOAc and washed with water. The organic portion was dried with MgSO4, filtered and concentrated. The crude material was purified by silica gel chromatography (90/10/1 CH2Cl2/MeOH/NH4OH) and reverse phase chromatography (Gilson, 10-95% CH3CN over 15 min) to provide 4-ethyl-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-6-p-tolylpyridazin-3-amine as a light yellow solid. MS m/z=480 [M+H]+. Calc'd for C28H25N5OS: 479.60.

reactant | 4-(7-methoxy-1,5-naphthyridin-4-ylthio)benzenamine | 0.430 mmol, 122 mg | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)N | C15H13N3OS
reactant | sodium tert-butoxide | 1.031 mmol, 99 mg | CC(C)([O-])C.[Na+]
reactant | S-Phos | 0.086 mmol, 35 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 3-chloro-4-ethyl-6-p-tolylpyridazine | 0.430 mmol, 100 mg | ClC=1N=NC(=CC1CC)C1=CC=C(C=C1)C | C13H13ClN2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.021 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-ethyl-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-6-p-tolylpyridazin-3-amine | C(C)C1=C(N=NC(=C1)C1=CC=C(C=C1)C)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C28H25N5OS
